US05108485
Preparation of Methyl 1-benzyl-4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-2-methyl-5-benzimidazolecarboxylate
A solution of diazomethane in ether is added to a suspension of 1-benzyl-4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-2-methyl-5-benzimidazolecarboxylic acid (1.15 g, 2.84 mmol) in methanol until the yellow color persists. The reaction is stirred for 5 minutes, quenched with 2 drops of acetic acid and concentrated in vacuo. The resultant residue is purified by HPLC (silica gel, ethyl acetate eluent) to give the title product as a white powder (0.480 g, 40.3%), mp 194°-196° C.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 1-benzyl-4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-2-methyl-5-benzimidazolecarboxylic acid | 2.84 mmol, 1.15 g | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2C=2NC(C(N2)(C)C(C)C)=O)C(=O)O)C | C23H24N4O3
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | Methyl 1-benzyl-4-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-2-methyl-5-benzimidazolecarboxylate | 0.480 g, 40.3% | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2C=2NC(C(N2)(C)C(C)C)=O)C(=O)OC)C | C24H26N4O3
